US08034812B2
Production of N-[3-({2-[(2,2-dimethylpropanoyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide
To a solution of N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (150 mg, 0.363 mmol) in pyridine (5 mL) was added dropwise 2,2-dimethylpropanoyl chloride (49 μL, 0.399 mmol), and the mixture was stirred at room temperature for 16 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=0/100→50/50), and precipitated from ethyl acetate/hexane to give the title compound (90 mg, 50%) as a white powder.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 0.363 mmol, 150 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C20H14F3N5O2
reactant | 2,2-dimethylpropanoyl chloride | 0.399 mmol, 49 μL | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-[3-({2-[(2,2-dimethylpropanoyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide | 90 mg, 50% | CC(C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1)(C)C | C25H22F3N5O3
